US04190661
3-Carboxy-4-oxo-pyrazolo[5,4-h]quinoline (Vb)
3-Carbethoxy-4-oxo-pyrazolo[5,4-h]quinoline (0.05 mole) is added to a 10% sodium hydroxide solution (200 ml). The reaction mixture is refluxed for 3 hours, which time is required for complete dissolution to occur. The cold solution is made acidic with a dilute hydrochloric acid solution. The resulting 3-carboxy-4-oxo-pyrazolo[5,4-h]quinoline precipitates out. It is suction filtered, washed with water and dried in vacuo.

reactant | 3-Carbethoxy-4-oxo-pyrazolo[5,4-h]quinoline | 0.05 mole | C(=O)(OCC)C1=CN=C2C=3C(=CC=C2C1=O)N=NC3 | C13H9N3O3
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 200 ml | [OH-].[Na+]
product | 3-Carboxy-4-oxo-pyrazolo[5,4-h]quinoline | C(=O)(O)C1=CN=C2C=3C(=CC=C2C1=O)N=NC3 | C11H5N3O3
